US05373008
A mixture of 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroidide (3.8 g), a 33% ethanolic solution of dimethylamine (5 ml) and pyridine (25 ml) was heated at 80° C. for 6 hours. Pyridine was removed by evaporation under reduced pressure and the residue treated with a mixture of ice and water to give 1,1-dimethyl-2-(2-morpholinophenyl)guanidine (m.p. 142°-144° C.) which was recrystallised from hexane.

reactant | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea | 3.8 g | CSC(NC1=C(C=CC=C1)N1CCOCC1)=N | C12H17N3OS
reactant | dimethylamine | 5 ml | CNC | C2H7N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethyl-2-(2-morpholinophenyl)guanidine | CN(C(=NC1=C(C=CC=C1)N1CCOCC1)N)C | C13H20N4O
